US06514968B1
N-{2-[(9-Benzyl-8-fluoro-9H-carbazol-4-yl)oxy]ethyl}-N,N-diethylamine
9-Benzyl-8-fluoro-9H-carbazol-4-ol (0.0273 g, 0.0940 mmol), 2-diethylaminoethylchloride hydrochloride (0.0237 g, 0.14 mmol), potassium carbonate (0.0396 g, 0.29 mmol), sodium iodide (0.0013 g, 0.0087 mmol) and DMF (1 mL) are heated at 80° C. for 3 h. After the mixture had cooled, it is partitioned between water and ethyl acetate. The organic layer is dried over magnesium sulfate and concentrated to an oil. The oil is chromatographed on silica gel (20 mL) using methanol/dichloromethane (1/99 to 2/98 to 3/97) to give 0.0206 g (56%) of the title compound; mp 60-60.5° C.; MS (ESI+) for C25H27FN2O m/z 391.3 (M+H)+; 1H NMR (CDCl3) δ1.17, 2.79, 3.17, 4.39, 5.53, 6.73, 7.02, 7.13, 7.25, 7.38, 8.15. Anal. Calcd for C25H27FN2O: C, 76.89; H, 6.97; N, 7.17. Found: C, 76.33; H, 7.18; N, 7.13.

reactant | 9-Benzyl-8-fluoro-9H-carbazol-4-ol | 0.0940 mmol, 0.0273 g | C(C1=CC=CC=C1)N1C2=C(C=CC=C2C=2C(=CC=CC12)O)F | C19H14FNO
reactant | 2-diethylaminoethylchloride hydrochloride | 0.14 mmol, 0.0237 g | Cl.C(C)N(CCCl)CC
reactant | potassium carbonate | 0.29 mmol, 0.0396 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.0087 mmol, 0.0013 g | [I-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-{2-[(9-Benzyl-8-fluoro-9H-carbazol-4-yl)oxy]ethyl}-N,N-diethylamine | 0.0206 g, 56% | C(C1=CC=CC=C1)N1C2=C(C=CC=C2C=2C(=CC=CC12)OCCN(CC)CC)F | C25H27FN2O
